US08431563B2
To a mixture of 4-((6-chloro-3-pyridinyl)sulfonyl)-2-piperazinone (1.12 g, 4.06 mmol), DMAP (0.50 g, 4.09 mmol), and triethylamine (0.60 mL, 4.30 mmol) in CH2Cl2 (10 mL) was added Boc2O (1.81 mL, 7.79 mmol, Sigma-Aldrich, St. Louis, Mo.). After 19 h, the mixture was concentrated and the residue was suspended in EtOAc (40 mL). The mixture was washed with aqueous 0.1 M HCl (1.0 mmol, 10 mL), water (10 mL), and then saturated aqueous NH4Cl (10 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. The resulting solid was agitated in hot CH2Cl2-hexane (1:1, 20 mL) and then collected by filtration to give tert-butyl 4-((6-chloro-3-pyridinyl)sulfonyl)-2-oxo-1-piperazinecarboxylate (1.17 g).

reactant | 4-((6-chloro-3-pyridinyl)sulfonyl)-2-piperazinone | 4.06 mmol, 1.12 g | ClC1=CC=C(C=N1)S(=O)(=O)N1CC(NCC1)=O | C9H10ClN3O3S
reactant | triethylamine | 4.30 mmol, 0.60 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 7.79 mmol, 1.81 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1.0 mmol, 0.1 M, 10 mL | Cl | ClH
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
catalyst | DMAP | 4.09 mmol, 0.50 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | tert-butyl 4-((6-chloro-3-pyridinyl)sulfonyl)-2-oxo-1-piperazinecarboxylate | 1.17 g | ClC1=CC=C(C=N1)S(=O)(=O)N1CC(N(CC1)C(=O)OC(C)(C)C)=O | C14H18ClN3O5S
